US06090913
Following method A, phenylacetic acid methyl ester (4.51 g, 30 mmol) and LiBr (13.03 g, 150 mmol) were dissolved in ethanol (150 ml). DBU (2.28 g, 15 mmol) was added and the reaction mixture was agitated at room temperature for an hour. It was then hydrolysed and processed as described. Vacuum distillation yielded 4.40 g (90% of the theoretical yield) of pure phenylacetic acid ethyl ester, b.p. 65.5-66° C./l Torr.

reactant | phenylacetic acid methyl ester | 30 mmol, 4.51 g | COC(CC1=CC=CC=C1)=O | C9H10O2
reactant | LiBr | 150 mmol, 13.03 g | [Li+].[Br-]
reactant | DBU | 15 mmol, 2.28 g | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | phenylacetic acid ethyl ester | C(C)OC(CC1=CC=CC=C1)=O | C10H12O2
